US04447435
A solution of thionyl chloride (9.48 g.) in dichloromethane (800 ml.) was added during 4 hours to a refluxing suspension of finely ground 3-hydroxymethyl-1-methyl-4-quinolone (15.01 g.) in dichloromethane (200 ml.). The mixture was boiled under reflux for a further 1.5 hours, cooled to room temperature and filtered to give the novel compound 3-chloromethyl-1-methyl-4-quinolone hydrochloride m.p. 178°-181°. The compound (12.71 g.) was added to a stirred solution of sodium methanethiolate in methanol at 0° (116 ml. containing 0.109 mole NaSCH3) during 5 minutes. The resulting mixture was allowed to warm to room temperature and kept overnight. The mixture was cooled to 0° and water added to form a solution. The solution was neutralised to pH 7.0 with dilute hydrochloric acid and filtered. Methanol was distilled from the filtrate and the residue extracted with dichloromethane (3×50 ml.). The combined extracts were dried over anhydrous magnesium sulphate and evaporated to give a solid product. The product was purified by high pressure liquid chromatography over silica gel, eluting with isopropanol:dichloromethane 15:85 at a flow rate of 300 ml. per minute. The same solvent was used for applying the product to the silica gel. This procedure gave the novel 1-methyl-3-methylthiomethyl-4-quinolone m.p. 118°-120°.

reactant | thionyl chloride | 9.48 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxymethyl-1-methyl-4-quinolone | 15.01 g | OCC1=CN(C2=CC=CC=C2C1=O)C | C11H11NO2
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-chloromethyl-1-methyl-4-quinolone hydrochloride | Cl.ClCC1=CN(C2=CC=CC=C2C1=O)C | InChI=1S/C11H10ClNO.ClH/c1-13-7-8(6-12)11(14)9-4-2-3-5-10(9)13;/h2-5,7H,6H2,1H3;1H
